US08119627B2
Trifluoroacetic acid (TFA, 9 mL) was added to a solution of 4-[2-(2,4-dichlorophenoxy)-benzoylamino]piperidine-1-carboxylic acid tert-butyl ester (AMR01070, 900 mg, 1.93 mmol) in dry DCM (20 mL) at 0° C. After stirring at 0° C. for 1 h, the mixture was poured into solid K2CO3 (2.5 g) and water (100 mL) was added. The solution was extracted with DCM (3×30 mL) and the organic layer was dried (MgSO4), filtered and evaporated to give 4-[2-(2,4-dichlorophenoxy)-N-piperidin-4-ylbenzamide (AMR01077, 705 mg, 100%) as a white solid, which was used in the next step without further purification. Rf: 0.25 (DCM/MeOH 9:1) 1H NMR (270 MHz, CDCl3) δ 1.87 (2H, m, CH2), 2.21 (2H, d, J=11.4 Hz, CH2), 3.01 (2H, q, J=10.9 Hz, CH2), 3.43 (2H, d, J=13.1 Hz, CH2), 4.22 (1H, m, CH), 6.76 (1H, dd, J=8.4, 1.0 Hz, ArH), 6.95 (1H, d, J=8.7 Hz, ArH), 7.21-7.27 (2H, m, ArH), 7.41 (1H, m, ArH), 7.51 (1H, d, J=2.5 Hz, ArH), 8.14 (1H, dd, J=7.9, 2.0 Hz, ArH), 9.25 (1H, br d, J=8.5 Hz, NH) and 9.56 (1H, br d, J=7.4 Hz, NH). 13C NMR (270 MHz, CDCl3) δ 28.61 (CH2), 43.11 (CH2), 44.90 (CH), 117.10, 123.43, 124.53, 126.40, 128.58, 130.83, 130.98, 132.53, 133.24, 149.35, 154.00 (ArC) and 164.38 (C═N).

reactant | Trifluoroacetic acid | 9 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[2-(2,4-dichlorophenoxy)-benzoylamino]piperidine-1-carboxylic acid tert-butyl ester | 1.93 mmol, 900 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=C(C=CC=C1)OC1=C(C=C(C=C1)Cl)Cl)=O | C23H26Cl2N2O4
reactant | K2CO3 | 2.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,4-dichlorophenoxy)-N-piperidin-4-ylbenzamide | 705 mg, 100% | ClC1=C(OC2=C(C(=O)NC3CCNCC3)C=CC=C2)C=CC(=C1)Cl | C18H18Cl2N2O2
